US09169246B2
Step 10.2. 4-oxo-7-(pyrid-4-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-2H-pyrazolo[4,3-c]quinoline-8-carbonitrile hydrochloride
The product is obtained according to the procedure described in Step 4.3. starting with 4-oxo-7-(pyrid-4-yl)-5-(2,2,2-trifluoroethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinoline-8-carbonitrile and 4-oxo-7-(pyrid-4-yl)-5-(2,2,2-trifluoroethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinoline-8-carbonitrile, in the form of a white powder (1.8 hydrochloride; yield 15%).

reactant | 4-oxo-7-(pyrid-4-yl)-5-(2,2,2-trifluoroethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinoline-8-carbonitrile | O=C1N(C=2C=C(C(=CC2C2=C1CNN2COCC[Si](C)(C)C)C#N)C2=CC=NC=C2)CC(F)(F)F | C24H26F3N5O2Si
reactant | 4-oxo-7-(pyrid-4-yl)-5-(2,2,2-trifluoroethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinoline-8-carbonitrile | O=C1N(C=2C=C(C(=CC2C=2C1=CN(N2)COCC[Si](C)(C)C)C#N)C2=CC=NC=C2)CC(F)(F)F | C24H24F3N5O2Si
reactant | hydrochloride | Cl | ClH
product | 4-oxo-7-(pyrid-4-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-2H-pyrazolo[4,3-c]quinoline-8-carbonitrile hydrochloride | yield 15% | Cl.O=C1N(C=2C=C(C(=CC2C=2C1=CNN2)C#N)C2=CC=NC=C2)CC(F)(F)F | InChI=1S/C18H10F3N5O.ClH/c19-18(20,21)9-26-15-6-12(10-1-3-23-4-2-10)11(7-22)5-13(15)16-14(17(26)27)8-24-25-16;/h1-6,8H,9H2,(H,24,25);1H
